US08242133B2
A mixture of 0.69 g of 3-chloroisonicotinic acid, 5 ml of thionyl chloride and 30 mg of DMF was heated to reflux for 3.5 hours. The reaction mixture was cooled to room temperature, and then the reaction mixture was concentrated under reduced pressure to give 3-chloroisonicotinic acid chloride. A mixture of the resultant 3-chloroisonicotinic acid chloride and 4 ml of DMF was added dropwise to a mixture of 0.85 g of 2-amino-5-fluoro-4-trifluoromethylphenol, 0.88 g of triethylamine and 4 ml of DMF while ice-cooling. Thereafter, the reaction mixture was stirred at room temperature for one hour and at 50° C. for one hour. The reaction mixture was cooled to room temperature, and then water was added, followed by extraction with ethyl acetate twice. The combined organic layers wee washed with water and a saturated sodium chloride solution, then dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The resultant solid was washed with diethyl ether to give 0.77 g of 3-chloro-N-[4-fluoro-2-hydroxy-5-(trifluoromethyl)phenyl]-isonicotinamide.

reactant | 3-chloroisonicotinic acid chloride | ClC1=C(C(=O)Cl)C=CN=C1 | C6H3Cl2NO
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
reactant | 2-amino-5-fluoro-4-trifluoromethylphenol | 0.85 g | NC1=C(C=C(C(=C1)C(F)(F)F)F)O | C7H5F4NO
reactant | triethylamine | 0.88 g | C(C)N(CC)CC | C6H15N
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-chloro-N-[4-fluoro-2-hydroxy-5-(trifluoromethyl)phenyl]-isonicotinamide | 0.77 g | ClC1=C(C(=O)NC2=C(C=C(C(=C2)C(F)(F)F)F)O)C=CN=C1 | C13H7ClF4N2O2
